US07838675B2
i) Ethyl (2R)-2-[(2-[(2,3-difluorobenzyl)thio]-6-{[(1,2-dimethyl-1H-imidazol-4-yl)sulfonyl]amino}pyrimidin-4-yl)oxy]propanoate
The subtitle compound was prepared according to the procedure outlined in example 1 step (iv) using a mixture of 1,2-Dimethyl-1H-imidazole-4-sulfonic acid amide (0.19 g), tris(dibenzylideneacetone)dipalladium (0) (56 mg), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (41 mg), cesium carbonate (0.32 g), 2-[[6-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinyl]oxy]-(2R)-propanoic acid ethyl ester (the product of example 11 step i) (0.24 g) and dioxane (20 mL). Purification was by column chromatography on silica gel using DCM/MeOH (100:1 to 90:10 gradient) as eluent, to give the title compound as a pale yellow solid. Yield: 0.25 g

reactant | 1,2-Dimethyl-1H-imidazole-4-sulfonic acid amide | 0.19 g | CN1C(=NC(=C1)S(=O)(=O)N)C | C5H9N3O2S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 41 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.32 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-[[6-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinyl]oxy]-(2R)-propanoic acid ethyl ester | C(C)OC([C@@H](C)OC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F)=O | C16H15ClF2N2O3S
catalyst | tris(dibenzylideneacetone)dipalladium | 56 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Ethyl (2R)-2-[(2-[(2,3-difluorobenzyl)thio]-6-{[(1,2-dimethyl-1H-imidazol-4-yl)sulfonyl]amino}pyrimidin-4-yl)oxy]propanoate | FC1=C(CSC2=NC(=CC(=N2)O[C@@H](C(=O)OCC)C)NS(=O)(=O)C=2N=C(N(C2)C)C)C=CC=C1F | C21H23F2N5O5S2
